US20010047099A1
To a solution of 4,5,6-trichloro-2-trichloromethylpyridine (2 g, 6.7 mmol) in aqueous DMF was added NaN3 (0.5 g, 7.7 mmol). The resulting mixture was heated at 70° C. for 2 hr, added to H2O and extracted (3×) with Et2O. Organic layer was concentrated to yield a white solid, which was dissolved in 10 mL of MeOH. Excess NaBH4 was added and the reaction mixture was stirred at room temperature for 0.5 hr. This material was added to H2O, extracted (3×) with Et2O, dried over MgSO4 and concentrated in vacuo. The resulting solid was washed several times with hexane to give 1.3 g of 4-amino-5,6-dichloro-2-trichloromethylpyridine.

reactant | 4,5,6-trichloro-2-trichloromethylpyridine | 6.7 mmol, 2 g | ClC1=CC(=NC(=C1Cl)Cl)C(Cl)(Cl)Cl | C6HCl6N
reactant | NaN3 | 7.7 mmol, 0.5 g | [N-]=[N+]=[N-].[Na+]
reactant | H2O | O | H2O
reactant | NaBH4 | [BH4-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | MeOH | 10 mL | CO | CH4O
product | 4-amino-5,6-dichloro-2-trichloromethylpyridine | 1.3 g | NC1=CC(=NC(=C1Cl)Cl)C(Cl)(Cl)Cl | C6H3Cl5N2
